### PR TITLE
feat(ModularForms/Derivative): prove D and serre_D preserve MDifferentiability

### LINKED ISSUE #209: Complex differentiability of $F'$ and Serre derivative
If $F$ is differentiable, then $F'$ and $\partial_k F$ is differentiable. Such theorem is useful when we use basic theorems on Serre derivatives such as `serre_D_mul` repeatedly. Something like this:
```lean
theorem D_differentiable {F : ℍ → ℂ} (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) : 
    MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (D F) := by sorry

theorem serre_D_differentiable {F : ℍ → ℂ} {k : ℂ} (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) : 
    MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (serre_D k F) := by sorry
```

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

This PR addresses **issue #209** by proving that the derivative operator `D` and the Serre derivative `serre_D` preserve MDifferentiability on the upper half-plane.

### New Theorems

1. **`D_differentiable`**: If `F : ℍ → ℂ` is MDifferentiable, then `D F` is also MDifferentiable.
   ```lean
   theorem D_differentiable {F : ℍ → ℂ} (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) :
       MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (D F)
   ```

2. **`serre_D_differentiable`**: If `F : ℍ → ℂ` is MDifferentiable, then `serre_D k F` is also MDifferentiable.
   ```lean
   theorem serre_D_differentiable {F : ℍ → ℂ} {k : ℂ}
       (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) :
       MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (serre_D k F)
   ```

### Helper Lemma

- **`DifferentiableAt_MDifferentiableAt`**: Converse bridge lemma showing that `DifferentiableAt` on ℂ implies `MDifferentiableAt` on ℍ (complementing the existing `MDifferentiableAt_DifferentiableAt`).

### For `D_differentiable`:
1. Convert `MDifferentiable F` on ℍ to `DifferentiableOn (F ∘ ofComplex)` on the upper half-plane (as an open subset of ℂ)
2. Apply mathlib's `DifferentiableOn.deriv` to show the derivative of a holomorphic function is holomorphic on open sets
3. Convert back to `MDifferentiableAt` using `DifferentiableAt.congr_of_eventuallyEq` with the fact that functions agree on a neighborhood (the upper half-plane)
4. Handle the constant multiplication by `(2πi)⁻¹` using `MDifferentiableAt.mul` with `mdifferentiableAt_const`

### For `serre_D_differentiable`:
1. Use `D_differentiable hF` to get MDifferentiability of `D F`
2. Use `E₂_holo'` (currently has a sorry, to be filled in issue #124) for E₂
3. Combine using `MDifferentiable.mul` and `MDifferentiable.sub`

## Dependencies

- `serre_D_differentiable` depends on `E₂_holo'` which currently has a sorry. Once issue #124 is completed (proving E₂ is holomorphic), this theorem will be fully sorry-free.

## Test Plan

- [x] `lake build SpherePacking.ModularForms.Derivative` succeeds
- [x] Lean LSP shows no new errors
- [x] All proof goals are closed (verified with `lean_goal` showing `→ no goals`)
- [x] Only pre-existing sorry warnings remain

## Additional Changes

- Updated `SpherePacking.lean` with missing imports discovered by `lake exe mk_all`

🤖 Generated with [Claude Code](https://claude.com/claude-code)

Closes #209

### CODE REVIEW

**Comment by cameronfreer** [comment]
@seewoo5 I just made a few small improvements:

  1. Reused DifferentiableAt_MDifferentiableAt bridge lemma in D_differentiable:
    - Instead of duplicating the congr_of_eventuallyEq argument with filter_upwards, we now directly call the bridge lemma
    - The code is shorter and more maintainable
  2. Replaced ring with simp only [mul_assoc] in serre_D_differentiable:
    - More explicit and predictable behavior
    - Avoids potential surprises if expressions change

File: SpherePacking/ModularForms/Derivative.lean [hunk 1]
```diff
@@ -165,6 +214,29 @@ theorem serre_D_mul (k₁ k₂ : ℤ) (F G : ℍ → ℂ) (hF : MDifferentiable
...
+  -- D F is MDifferentiable by D_differentiable
+  have hD : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (D F) := D_differentiable hF
+  -- E₂ * F is MDifferentiable (using E₂_holo' and hF)
+  have hE₂F : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (fun z => E₂ z * F z) :=
+    MDifferentiable.mul E₂_holo' hF
+  -- k * 12⁻¹ * E₂ * F is MDifferentiable (constant multiple times MDifferentiable function)
+  have h_term : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (fun z => k * 12⁻¹ * E₂ z * F z) := by
+    have h_const : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (fun _ : ℍ => k * 12⁻¹) := mdifferentiable_const
+    have h1 : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (fun z => (k * 12⁻¹) * (E₂ z * F z)) :=
+      MDifferentiable.mul h_const hE₂F
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
    have h1 : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (fun z => (k * 12⁻¹) * (E₂ z * F z)) :=
      MDifferentiable.mul mdifferentiable_const hE₂F
```

File: SpherePacking/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -24,6 +24,55 @@ lemma MDifferentiableAt_DifferentiableAt {F : ℍ → ℂ} {z : ℍ}
...
+theorem D_differentiable {F : ℍ → ℂ} (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) :
+    MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (D F) := by
+  intro z
+  -- D F z = (2 * π * I)⁻¹ * deriv (F ∘ ofComplex) z
+  -- We need to show MDifferentiableAt for z ↦ (2 * π * I)⁻¹ * deriv (F ∘ ofComplex) z
+  -- First, show F ∘ ofComplex is differentiable on the upper half-plane (as an open set in ℂ)
+  have hDiff : ∀ w : ℍ, DifferentiableAt ℂ (F ∘ ofComplex) ↑w :=
+    fun w => MDifferentiableAt_DifferentiableAt (hF w)
+  -- The upper half-plane is open
+  have hOpen : IsOpen {z : ℂ | 0 < z.im} := isOpen_lt continuous_const Complex.continuous_im
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: This is exactly [`isOpen_upperHalfPlaneSet`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/UpperHalfPlane/Basic.html#UpperHalfPlane.isOpen_upperHalfPlaneSet).

**Comment by cameronfreer** [comment]
I believe everything compiled fine when I made the PR. Then a few hours later I got a error notification from github when CI was finally run.

It looks to me like `Operations.lean` was added a few months ago in [cc6dc45](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/commit/cc6dc454434668df359974105ca08804382a3716) and my best guess is that the Lean 4.25.0 bump broke its use of `fun_prop`, but I'm not entirely sure (nor do I know why it wasn't caught earlier).

As far as I can tell, running`lake exe mk_all` led to `import SpherePacking.Mathlib.Analysis.Calculus.ContDiff.Operations` being added (I hadn't run this command until after writing most of the proof, but then [commit again after](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/commit/7add5782c3b3b3154b101971eee2eaf0d3e54f6a)), though I don't know why.

File: SpherePacking/ModularForms/Derivative.lean [hunk 3]
```diff
@@ -24,6 +24,55 @@ lemma MDifferentiableAt_DifferentiableAt {F : ℍ → ℂ} {z : ℍ}
...
+  have hOpen : IsOpen {w : ℂ | 0 < w.im} := isOpen_lt continuous_const Complex.continuous_im
+  filter_upwards [hOpen.mem_nhds z.im_pos] with w hw
+  simp only [Function.comp_apply, ofComplex_apply_of_im_pos hw]
+  exact congrArg G (UpperHalfPlane.coe_mk w hw)
+
+/--
+The derivative operator `D` preserves MDifferentiability.
+If `F : ℍ → ℂ` is MDifferentiable, then `D F` is also MDifferentiable.
+-/
+theorem D_differentiable {F : ℍ → ℂ} (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) :
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean:45]: I think this proof is quite golfable. Maybe the most important part of the proof is `DifferentiableOn.deriv`.

File: SpherePacking/ModularForms/Derivative.lean [hunk 4]
```diff
@@ -24,6 +24,55 @@ lemma MDifferentiableAt_DifferentiableAt {F : ℍ → ℂ} {z : ℍ}
...
+  -- Use the bridge lemma to get MDifferentiableAt
+  have h_deriv_mdiff : MDifferentiableAt 𝓘(ℂ) 𝓘(ℂ) ((deriv (F ∘ ofComplex)) ∘ (↑) : ℍ → ℂ) z :=
+    DifferentiableAt_MDifferentiableAt hDerivDiffAt
+  -- Identify with our original function
+  have h_deriv_mdiff' : MDifferentiableAt 𝓘(ℂ) 𝓘(ℂ) (fun w : ℍ => deriv (F ∘ ofComplex) w) z := by
+    convert h_deriv_mdiff using 1
+  -- Multiplying by a constant preserves MDifferentiability
+  have h_const : MDifferentiableAt 𝓘(ℂ) 𝓘(ℂ) (fun _ : ℍ => (2 * π * I)⁻¹) z :=
+    mdifferentiableAt_const
+  exact MDifferentiableAt.mul h_const h_deriv_mdiff'
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
  exact MDifferentiableAt.mul mdifferentiableAt_const h_deriv_mdiff'
```

**Comment by seewoo5** [comment]
> I believe everything compiled fine when I made the PR. Then a few hours later I got a error notification from github when CI was finally run.
> 
> It looks to me like `Operations.lean` was added a few months ago in [cc6dc45](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/commit/cc6dc454434668df359974105ca08804382a3716) and my best guess is that the Lean 4.25.0 bump broke its use of `fun_prop`, but I'm not entirely sure (nor do I know why it wasn't caught earlier).
> 
> As far as I can tell, running`lake exe mk_all` led to `import SpherePacking.Mathlib.Analysis.Calculus.ContDiff.Operations` being added (I hadn't run this command until after writing most of the proof, but then [commit again after](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/commit/7add5782c3b3b3154b101971eee2eaf0d3e54f6a)), though I don't know why.

I see, thanks! I left some comments but generally it looks fine for me.

File: SpherePacking/ModularForms/Derivative.lean [hunk 5]
```diff
@@ -24,6 +24,32 @@ lemma MDifferentiableAt_DifferentiableAt {F : ℍ → ℂ} {z : ℍ}
...
+-/
+lemma DifferentiableAt_MDifferentiableAt {G : ℂ → ℂ} {z : ℍ}
+    (h : DifferentiableAt ℂ G ↑z) : MDifferentiableAt 𝓘(ℂ) 𝓘(ℂ) (G ∘ (↑) : ℍ → ℂ) z := by
+  rw [mdifferentiableAt_iff]
+  -- Goal: DifferentiableAt ℂ ((G ∘ (↑)) ∘ ofComplex) ↑z
+  -- The functions ((G ∘ (↑)) ∘ ofComplex) and G agree on the upper half-plane
+  -- which is a neighborhood of ↑z
+  apply DifferentiableAt.congr_of_eventuallyEq h
+  have hOpen : IsOpen {w : ℂ | 0 < w.im} := isOpen_lt continuous_const Complex.continuous_im
+  filter_upwards [hOpen.mem_nhds z.im_pos] with w hw
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
  filter_upwards [isOpen_upperHalfPlaneSet.mem_nhds z.im_pos] with w hw
```

Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks, fixed in [f0097b4](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/231/changes/f0097b40ea3931018ed38485212fb542b4146b02).

**Comment by cameronfreer** [comment]
> > Should I separately create an issue to fix the `fun_prop` in `Operations.lean`? (I assume it's best to not combine with this work?)
> 
> That would be nice!

No problem; see #235
